US04880933
A mixture of 2.6 g of 2-nitroimino-imidazolidine, 3.0 g of anhydrous potassium carbonate and 30 ml of dry acetonitrile was stirred at room temperature for 30 minutes. Then, 2.7 g of 1-chloro-3,3-dimethyl-2-butanone were added to the mixture under stirring at room temperature. The reaction mixture was heated and refluxed for 1 hour. The acetonitrile was distilled off under a reduced pressure, and the residue was admixed with water. The aimed product was separated by filtration. The crystalline product was washed in ether and dried. 3.5 g of 1-(3,3-dimethyl-2-butanon-1-yl)-2-nitroimino-imidazolidine were obtained. mp. 158°-159° C.

reactant | 2-nitroimino-imidazolidine | 2.6 g | [N+](=O)([O-])N=C1NCCN1 | C3H6N4O2
reactant | potassium carbonate | 3.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-3,3-dimethyl-2-butanone | 2.7 g | ClCC(C(C)(C)C)=O | C6H11ClO
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 1-(3,3-dimethyl-2-butanon-1-yl)-2-nitroimino-imidazolidine | 3.5 g | CC(C(CN1C(NCC1)=N[N+](=O)[O-])=O)(C)C | C9H16N4O3
